US04960771
Preparation of 3-butyl-4-benzyloxazolidin-2-one
A mixture of 5.005 g of 2-amino-3-phenylpropanol and 3 g of ethylene carbonate in 50 ml of toluene in a round bottom flask with a Dean-Stark trap was refluxed for 48 hours and the reaction was followed by tlc. At the end of the reaction the solution was washed with water and brine and concentrated to dryness to give 5.86 g of light yellow oil. The racemic 4-benzyloxazolidin- 2-one was dissolved in 20 ml of THF and was added to 1.98 g of 60% NaH in 40 ml of THF and 10 ml of DMF. After the initial reaction had subsided the reaction mixture was refluxed for 2 hours. After cooling to r.t. 5.44 g of 1-bromobutane in 20 ml of THF was added and the reaction mixture was refluxed overnight. It was then poured into ice-water and extracted twice with ethyl acetate. Combined organic extracts were washed three times with water, followed by brine. After drying, the solution was concentrated to give 7.625 g of crude oil. This was kugelrohr distilled (155°-160° C./0.3 mm) to give 6.54 g (84.7% overall yield) of product.

reactant | racemic 4-benzyloxazolidin- 2-one | C(C1=CC=CC=C1)C1NC(OC1)=O | C10H11NO2
reactant | NaH | 1.98 g | [H-].[Na+]
reactant | 1-bromobutane | 5.44 g | BrCCCC | C4H9Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-butyl-4-benzyloxazolidin-2-one | 7.625 g | C(CCC)N1C(OCC1CC1=CC=CC=C1)=O | C14H19NO2
